US06166074
3-Diacetoxymethylbenzylidene Diacetate
Isophtalaldehyde (10.0 g, 0.075 mol) and acetic acid anhydride (16.7 g, 0.164 mol) were mixed under N2 -atmosphere in carbontetrachloride (25 ml). Nafion NR 50 was added and the reaction mixture stirred at 30° C. for several days. During this period additional amounts of catalyst (100 mg) and solvent (5 ml) were added. The catalyst was filtered off and also the reaction mixture was filtered, washing with ether. The crude solid was recrystallized from cyclohexane (540 ml), giving white crystals, m.p. 110-130° C. The yield was 10.3 g, 41% of the theoretical. 1H- and 13C NMR (CDCl3), d (ppm) rel. to TMS: 7.72 (s, 1H, CH(OAc)2), 7.70-7.42 (m, 1+2+1H, Ar-H) and 2.13 (s, 6H, CH3); 168.591 (C=O), 135.908, 128.885, 128.047 and 124.879 (Ar), 89.072 (CH(OAc)2) and 20.717 (CH3).

reactant | Isophtalaldehyde | 0.075 mol, 10.0 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
reactant | acetic acid anhydride | 0.164 mol, 16.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | carbontetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Diacetoxymethylbenzylidene Diacetate | C(C)(=O)OC(C1=CC(=CC=C1)C(OC(C)=O)OC(C)=O)OC(C)=O | C16H18O8
